US09314025B2
Step C: Preparation of 2[3-(trifluoromethoxy)phenyl]propanedioic acid
Diethyl 3-trifluoromethoxyphenylmalonate (3.00 g, 9.38 mmol) was stirred in an aqueous sodium hydroxide solution (15 g, 20% by weight) at 65° C. for 10 min. The reaction mixture was then cooled in an ice bath, and ice (7 g) was added to the reaction mixture, followed by 6 N hydrochloric acid to adjust the pH to about 2. The aqueous mixture was saturated with sodium chloride and extracted with ethyl acetate three times. The combined organic phases were dried (MgSO4) and concentrated to give a solid, which was triturated with a mixture of 33% diethyl ether/hexane to give the title compound as a white solid (2.24 g).

reactant | Diethyl 3-trifluoromethoxyphenylmalonate | 9.38 mmol, 3.00 g | FC(OC=1C=C(C=CC1)C(C(=O)OCC)C(=O)OCC)(F)F | C14H15F3O5
reactant | sodium hydroxide | 15 g | [OH-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
product | 2[3-(trifluoromethoxy)phenyl]propanedioic acid | 2.24 g | FC(OC=1C=C(C=CC1)C(C(=O)O)C(=O)O)(F)F | C10H7F3O5
